US05292747
A solution of 680 mg of 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine] in 20 ml of dichloromethane was added dropwise to an ice-cold solution of 660 mg of di-tert.butyl dicarbonate and 300 mg of triethylamine in 25 ml of dichloromethane. After completion of the addition the mixture was stirred for 16 hours and washed in succession with dilute hydrochloric acid, saturated aqueous sodium bicarbonate solution and water. The organic phase was dried and concentrated to give a gum which, upon trituration with n-hexane, gave 711 mg of 1'-(tert.butoxycarbonyl)-7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine].

reactant | 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine] | 680 mg | N1CC2(CC1)CC=1N(C3=CC=CC=C3C1)CC2 | C15H18N2
reactant | di-tert.butyl dicarbonate | 660 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 300 mg | C(C)N(CC)CC | C6H15N
reactant | n-hexane | CCCCCC | C6H14
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1'-(tert.butoxycarbonyl)-7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine] | 711 mg | C(C)(C)(C)OC(=O)N1CC2(CC1)CC=1N(C3=CC=CC=C3C1)CC2 | C20H26N2O2
